US08791107B2
PREPARATION x13: 1-(2-(1-(tert-butyldimethylsilyl)-1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-(4-methoxyphenyl)ethanone
2-(1-(tert-Butyldimethylsilyl)-1H-indol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x12, 42 mg, 0.100 mmol) in CH2Cl2 (1 mL) was cooled to 0° C. 2-(4-Methoxyphenyl)acetyl chloride (0.018 mL, 0.120 mmol) was added, followed by triethylamine (0.028 mL, 0.199 mmol) to give a yellow solution. The reaction mixture was stirred for 2 hours at 0° C. The solvent was subsequently removed in vacuo and the resulting concentrate was loaded onto an ISCO® silica gel cartridge (4 g) and eluted using an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a yellow oil (42 mg, 74%). 1H NMR (400 MHz, DMSO-d6) δ 0.64 (s, 6H), 0.89 (s, 9H), 3.02-3.22 (m, 4H), 3.42-3.61 (m, 2H), 3.66-3.78 (m, 3H), 3.87-3.92 (m, 2H), 3.91-3.98 (m, 1H), 4.30-4.47 (m, 1H), 4.64-4.75 (m, 1H), 6.79-6.93 (m, 2H), 7.00-7.30 (m, 3H), 7.42-7.51 (m, 2H), 7.61-7.68 (m, 1H), 8.02-8.07 (m, 1H), 8.32-9.02 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C32H39N5O3Si, 570.28. found 570.6.

reactant | 2-(1-(tert-Butyldimethylsilyl)-1H-indol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.100 mmol, 42 mg | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C=CC=C12)C1=NC=2N3C(CNC2C=N1)COCC3 | C23H31N5OSi
reactant | 2-(4-Methoxyphenyl)acetyl chloride | 0.120 mmol, 0.018 mL | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | triethylamine | 0.199 mmol, 0.028 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-(1-(tert-butyldimethylsilyl)-1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-(4-methoxyphenyl)ethanone | 42 mg, 74% | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C=CC=C12)C1=NC=2N3C(CN(C2C=N1)C(CC1=CC=C(C=C1)OC)=O)COCC3 | C32H39N5O3Si
